US08912330B2
tert-butyl 4-[4-(1-{[(E)-phenylmethylidene]amino}-1H-pyrrolo[3,2-b]pyridin-6-yl)-1H-pyrazol-1-yl]piperidine-1-carboxylate:
A mixture of tert-butyl 4-[4-(1-amino-1H-pyrrolo[3,2-b]pyridin-6-yl)-1H-pyrazol-1-yl]piperidine-1-carboxylate (30 mg, 0.078 mmol) and benzaldehyde (2.0 mL, excess) was heated to 60° C. for 10 min. Heptanes (4.0 ml) was added and the mixture was heated to reflux for 10 min. The product was purified by column chromatography (EtOAc:MeOH=100:5) and the entitled intermediate was isolated as a white solid (30 mg, 81% yield).

reactant | tert-butyl 4-[4-(1-amino-1H-pyrrolo[3,2-b]pyridin-6-yl)-1H-pyrazol-1-yl]piperidine-1-carboxylate | 0.078 mmol, 30 mg | NN1C=CC2=NC=C(C=C21)C=2C=NN(C2)C2CCN(CC2)C(=O)OC(C)(C)C | C20H26N6O2
reactant | benzaldehyde | 2.0 mL | C(C1=CC=CC=C1)=O | C7H6O
product | tert-butyl 4-[4-(1-{[(E)-phenylmethylidene]amino}-1H-pyrrolo[3,2-b]pyridin-6-yl)-1H-pyrazol-1-yl]piperidine-1-carboxylate | 30 mg, 81% yield | C1(=CC=CC=C1)\C=N\N1C=CC2=NC=C(C=C21)C=2C=NN(C2)C2CCN(CC2)C(=O)OC(C)(C)C | C27H30N6O2
